US06897231B2
SYNTHESIS OF (3-BENZO[D]FURAN-2-YL(1H-INDAZOL-5-YL))-N-METHYLCARBOXAMIDE
The title compound was prepared as described in Example 277 using of 3-benzo[d]furan-2-yl-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxylic acid (300 mg, 0.82 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (341 mg, 0.9 mmol) and methylamine (45 mL, 0.9 mmol); (15 mg, 6% yield). RT 7.164 20-100% ODS at 1 mL/min method, ES-MS (m/z) 292 [M+1]+.

reactant | 3-benzo[d]furan-2-yl-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxylic acid | 0.82 mmol, 300 mg | O1C(=CC2=C1C=CC=C2)C2=NN(C1=CC=C(C=C21)C(=O)O)C2OCCCC2 | C21H18N2O4
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.9 mmol, 341 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | methylamine | 0.9 mmol, 45 mL | CN | CH5N
product | (3-BENZO[D]FURAN-2-YL(1H-INDAZOL-5-YL))-N-METHYLCARBOXAMIDE | 6% yield | O1C(=CC2=C1C=CC=C2)C2=NNC1=CC=C(C=C21)C(=O)NC | C17H13N3O2
